US08232319B2
2-Chloro-4-(3-ethylphenylthio)benzaldehyde
3-Ethylbenzenethiol and 2-chloro-4-fluorobenzaldehyde were reacted according to the same experiment procedures as in Reference Example 1 of the pamphlet of WO 03029205 to obtain the target product as a colorless oil.

reactant | 3-Ethylbenzenethiol | C(C)C=1C=C(C=CC1)S | C8H10S
reactant | 2-chloro-4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
product | 2-Chloro-4-(3-ethylphenylthio)benzaldehyde | ClC1=C(C=O)C=CC(=C1)SC1=CC(=CC=C1)CC | C15H13ClOS
